US04243609
A solution of 4.75 g. of N-trifluoroacetyl-3-fluoro-4-(hexadecylamino)benzoyl chloride and 1.2 g. of triethylamine in 200 ml. of warm ether is treated with 1.55 g. alanine ethyl ester and refluxed for 24 hours. The hot solution is filtered, the residue is washed with hot ether, and the solution is evaporated. After treatment with aqueous methanolic potassium carbonate, the product is precipitated by acidification, filtered, and dried. Crystallization from acetone yields the N-[3-fluoro-4-(hexadecylamino)benzoyl]alanine as a white, crystalline solid.

reactant | N-trifluoroacetyl-3-fluoro-4-(hexadecylamino)benzoyl chloride | FC(C(=O)N(C1=C(C=C(C(=O)Cl)C=C1)F)CCCCCCCCCCCCCCCC)(F)F | C25H36ClF4NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
solvent | ether | CCOCC | C4H10O
product | N-[3-fluoro-4-(hexadecylamino)benzoyl]alanine | FC=1C=C(C(=O)N[C@@H](C)C(=O)O)C=CC1NCCCCCCCCCCCCCCCC | C26H43FN2O3
